US07153865B2
6-methoxy-4-(3,4-dichlorophenyl)amino-2-hydroxyquinoline
6-Methoxyquinolinediol (2.5 g, 13.08 mmol) and 3,4-dichloroaniline (4.2 g, 26.25 mmol) were placed in a 100 mL Teflon vessel for use with an Ethos 1600 Lab Microwave. NMP was then added (9 mL), followed by HCl in dioxane (5 mL, 4 M). The slurry was irradiated to achieve a 200° C. temperature using a 400 W upper setpoint for 30 min. The mixture was cooled, suspended in methanol (20 mL), and filtered to afford 1.049 g of the title compound. 1H NMR (300 MHz, DMSO): 3.84 (s, 3H), 5.84 (s, 1H), 7.23 (td, ?H, J=8.88, 8.48 Hz), 7.35(tt, ?H, J=8.88, 2.42 Hz), 7.56(d, ?H, J=2.42 Hz), 7.66 (˜s, 2H), 8.71(s, 1H), 11.10(s, 1H).

reactant | 6-Methoxyquinolinediol | 13.08 mmol, 2.5 g | COC=1C=C2C=C(C(=NC2=CC1)O)O | C10H9NO3
reactant | 3,4-dichloroaniline | 26.25 mmol, 4.2 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | NMP | CN1CCCC1=O | C5H9NO
reactant | HCl | Cl | ClH
solvent | dioxane | 4 M, 5 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | 6-methoxy-4-(3,4-dichlorophenyl)amino-2-hydroxyquinoline | 1.049 g | COC=1C=C2C(=CC(=NC2=CC1)O)NC1=CC(=C(C=C1)Cl)Cl | C16H12Cl2N2O2
